US05294713
WORKING EXAMPLE 20 (S)-3-Carbamoylmethyl-2-oxopiperazine-1-acetic acid benzyl ester hydrochloride
To a mixture of 1.8 g of (S)-3-carbamoylmethyl-2-oxopiperazine-1-acetic acid hydrochloride, 3.0 g of sodium carbonate, 20 ml of dioxane and 20 ml of water was added, while stirring vigorously, 2.0 g of di-t-butyl bicarbonate. The mixture was stirred vigorously for 2 hours at 0° C. The reaction mixture was concentrated to half of its original volume. The concentrate was washed with ether and there was added 20 ml of a 10% aqueous solution of potassium hydrogensulfate, followed by extraction with methylene chloride. The extract solution was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to give an oily product. The oily product was dissolved in 10 ml of dimethylformamide, to which were added 720 mg of potassium hydrogencarbonate and 1.0 g of benzyl bromide. The mixture was stirred for 12 hours at room temperature. The reaction mixture was diluted with ethyl acetate, washed with water and dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure to give a crude product. The crude product was dissolved in 30 ml of 2N HCl-ethyl acetate, and the solution was stirred for one hour at room temperature. The reaction mixture was concentrated under reduced pressure to give an oily product, which was processed with ether to afford 1.0 g of the title compound as amorphous powder.

reactant | (S)-3-carbamoylmethyl-2-oxopiperazine-1-acetic acid hydrochloride | 1.8 g | Cl.C(N)(=O)C[C@H]1C(N(CCN1)CC(=O)O)=O
reactant | sodium carbonate | 3.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium hydrogencarbonate | 720 mg | C(O)([O-])=O.[K+]
reactant | benzyl bromide | 1.0 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl ethyl acetate | 2N, 30 ml | Cl.C(C)(=O)OCC
solvent | ether | CCOCC | C4H10O
solvent | water | 20 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (S)-3-Carbamoylmethyl-2-oxopiperazine-1-acetic acid benzyl ester hydrochloride | 1.0 g | Cl.C(C1=CC=CC=C1)OC(CN1C([C@@H](NCC1)CC(N)=O)=O)=O | InChI=1S/C15H19N3O4.ClH/c16-13(19)8-12-15(21)18(7-6-17-12)9-14(20)22-10-11-4-2-1-3-5-11;/h1-5,12,17H,6-10H2,(H2,16,19);1H/t12-;/m0./s1
